US08110579B2
1.3. Ethyl (2E,4E)-2-azido-5-(2,6-dimethoxyphenyl)penta-2,4-dienoate
Add dropwise, while stirring, a solution of 37 g (192 mmol) of (2E)-3-(2,6-dimethoxyphenyl)acrylaldehyde and 85.7 g (664 mmol) of ethyl 2-azidoacetate in 200 mL of absolute ethanol EtOH to a solution of 15.5 g (673 mmol) of sodium in 500 mL of absolute EtOH cooled to −10° C. and kept under argon, maintaining the temperature at −10° C. After stirring at −10° C. for 3 h, stir the reaction mixture for 15 h at RT, then pour into 600 mL of an aqueous solution of ammonium chloride (NH4Cl) at 30 wt. %. After filtration on a frit and rinsing with 2×200 mL of water, take up the precipitate in 600 mL of DCM, dry over Na2SO4 and concentrate under reduced pressure, which leads to 42 g of ethyl (2E,4E)-2-azido-5-(2,6-dimethoxyphenyl)penta-2,4-dienoate in the form of a yellow solid.

reactant | (2E)-3-(2,6-dimethoxyphenyl)acrylaldehyde | 192 mmol, 37 g | COC1=C(C(=CC=C1)OC)/C=C/C=O | C11H12O3
reactant | ethyl 2-azidoacetate | 664 mmol, 85.7 g | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
reactant | sodium | 673 mmol, 15.5 g | [Na] | Na
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol EtOH | 200 mL | C(C)O.CCO | 2C2H6O
solvent | EtOH | 500 mL | CCO | C2H6O
product | Ethyl (2E,4E)-2-azido-5-(2,6-dimethoxyphenyl)penta-2,4-dienoate | N(=[N+]=[N-])\C(\C(=O)OCC)=C\C=C\C1=C(C=CC=C1OC)OC | C15H17N3O4
